US07968538B2
1,2,3,4-Tetrahydro-2-methyl-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine hydrochloride
A solution of 1,2,3,4-tetrahydro-2-methyl-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine (70.0 mg, 0.18 mmol) in anhydrous dichloromethane (1.0 mL) was cooled to 0° C. and HCl (96 μL of a 1M solution in diethyl ether, 0.19 mmol) were added. The mixture was allowed to stir for 10 min. After removal of solvent by rotary evaporation the desired product was collected (82.0 mg, 100%). 1H NMR (400 MHz, CD3OD): δ 7.58 (d, 1H), 7.25 (t, 1H), 7.15 (m, 3H), 6.41 (d, 1H), 6.27 (s, 1H), 4.45 (d, 1H), 3.47 (m, 4H), 3.36 (m, 1H), 3.30 (m, 4H), 2.98 (s, 3H), 2.30 (m, 1H), 2.08 (m, 2H), 1.72 (m, 1H), 1.13 (d, 3H); MS (ESI) m/z: 400.2 (M++1).

reactant | 1,2,3,4-tetrahydro-2-methyl-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine | 0.18 mmol, 70.0 mg | CC1C(C2=CC=CC=C2CC1)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C22H29N3O2S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,2,3,4-Tetrahydro-2-methyl-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine hydrochloride | Cl.CC1C(C2=CC=CC=C2CC1)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | InChI=1S/C22H29N3O2S.ClH/c1-16-7-8-17-5-3-4-6-19(17)22(16)24-20-15-18(25-13-11-23-12-14-25)9-10-21(20)28(2,26)27;/h3-6,9-10,15-16,22-24H,7-8,11-14H2,1-2H3;1H
